US08008307B2
Step a: 4-chloro-6-(1-naphthyl)-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine
To a stirred solution of N,N-diisopropylamine (265 μL, 1.89 mmol) in THF (3.00 mL) was added dropwise 1.60 M n-butyllithium in hexane (1.17 mL) at −78° C. under an atmosphere of Argon, and the mixture was stirred for 20 minutes at −78° C. To this mixture was added dropwise a solution of 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine (500 mg, 1.70 mmol) in THF (5.00 mL), and the mixture was stirred for 1 h at −78° C. A solution of zinc chloride (278 mg, 2.04 mmol) in THF (2.00 mL) was added dropwise, and the resulting mixture was taken out the cooling bath and allowed to stir for 1 h. To a suspension of tetrakis(triphenylphosphine)palladium(0) (100 mg, 0.08 mmol) in THF (2.00 mL) was added 1-iodonaphthalene (0.30 mL, 2.06 mmol), and the resulting yellow solution was immediately added to the reaction mixture. The resulting mixture was heated at 80° C. for 1 h. After cooling to 23° C., the reaction mixture was quenched by the addition of water (70.0 mL) and the water layer was acidified with 1.00 M hydrochloric acid. The mixture was extracted with DCM (3×100 mL), and the organic layers were combined. The organic layer was washed with brine, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified via silica gel column chromatography eluting with 30% ethyl acetate in hexanes to afford the title compound (665 mg, 82%). LC/MS: Rt=11.11 min, ES+ 420.0 (FA long).

reactant | N,N-diisopropylamine | 1.89 mmol, 265 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.60 M | C(CCC)[Li]
reactant | 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.70 mmol, 500 mg | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8ClN3O2S
reactant | 1-iodonaphthalene | 2.06 mmol, 0.30 mL | IC1=CC=CC2=CC=CC=C12 | C10H7I
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.17 mL | CCCCCC | C6H14
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 2.04 mmol, 278 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-6-(1-naphthyl)-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 665 mg, 82% | ClC=1C2=C(N=CN1)N(C(=C2)C2=CC=CC1=CC=CC=C21)S(=O)(=O)C2=CC=CC=C2 | C22H14ClN3O2S
